US04159984
To a solution of 4.90 g of methyl α-(3ξ-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 50 ml of tetrahydrofuran are added 2.4 ml of triethylamine and then 2.5 ml of phenylacetyl chloride under ice-cooling, and the mixture stirred for 30 minutes, poured into water and extracted with ethyl acetate. The extract is washed with water dried on magnesium sulfate and concentrated under reduced pressure. The residue is chromatographed on 150 g of silica gel containing 10% water and eluted with benzene containing 10% ethyl acetate to yield 4.37 g of methyl α-(3ξ-carbobenzoxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 67.2% yield.

reactant | methyl α-(3ξ-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 4.90 g | C(=O)(OCC1=CC=CC=C1)C1NC2C(N(C2O1)C(C(=O)OC)=C(C)C)=O | C18H20N2O6
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 2.5 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl α-(3ξ-carbobenzoxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 4.37 g, 67.2% yield | C(=O)(OCC1=CC=CC=C1)C1NC2(C(N(C2O1)C(C(=O)OC)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C26H26N2O7
